US06962941B2
A11. 3-(3-tert-Butyloxycarbonylaminomethylphenyl)propionic acid
19.46 g of methyl 3-(3-aminomethylphenyl)propionate hydrochloride (starting compound A12) are dissolved in 200 ml of dichloromethane and, while stirring at 0° C., 27 ml of triethylamine and a solution of 16.8 g of di-tert-butyl dicarbonate in 10 ml of dichloromethane are successively added. After stirring at 0° C. for 1 h and at RT for a further 3 h, the reaction solution is washed twice with 0.1N hydrochloric acid solution and then with sodium bicarbonate solution and water, and dried over magnesium sulfate. Filtration is followed by concentration in vacuo, and the residue (13.5 g) is dissolved in 188 ml of tetrahydrofuran, and 38 ml of 2N sodium hydroxide solution are added. After stirring at RT overnight, 4N hydrochloric acid is used to neutralize, and the organic solvent is removed by distillation in vacuo. The resulting colorless precipitate Is filtered off with suction, washed with water and dried under high vacuum. 12.8 g of the title compound are obtained, and its mass spectrum shows the molecular peak MNH4+ at 297 Da.

reactant | methyl 3-(3-aminomethylphenyl)propionate hydrochloride | 19.46 g | Cl.NCC=1C=C(C=CC1)CCC(=O)OC
reactant | triethylamine | 27 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 16.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 3-(3-tert-Butyloxycarbonylaminomethylphenyl)propionic acid | 12.8 g | C(C)(C)(C)OC(=O)NCC=1C=C(C=CC1)CCC(=O)O | C15H21NO4
